US06114532
4-[(5-(N-phenyl-N-carboxymethyl-aminocarbonyl)-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzamidine-hydrochloride
Prepared analogously to Example 13 from 4-[(5-(N-phenyl-N-ethoxycarbonylmethyl-aminocarbonyl)-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzamidine-hydrochloride and sodium hydroxide in ethanol/water.

reactant | 4-[(5-(N-phenyl-N-ethoxycarbonylmethyl-aminocarbonyl)-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzamidine-hydrochloride | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CC2=CC=C(C(=N)N)C=C2)C)C=C1)CC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol water | C(C)O.O
product | 4-[(5-(N-phenyl-N-carboxymethyl-aminocarbonyl)-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzamidine-hydrochloride | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CC2=CC=C(C(=N)N)C=C2)C)C=C1)CC(=O)O | InChI=1S/C25H23N5O3.ClH/c1-29-21-12-11-18(25(33)30(15-23(31)32)19-5-3-2-4-6-19)14-20(21)28-22(29)13-16-7-9-17(10-8-16)24(26)27;/h2-12,14H,13,15H2,1H3,(H3,26,27)(H,31,32);1H
